US04686309
α-(1-Methyl-2-pyrrolidinyl)acetophenone 2,4,6-triisopropylbenzenesulphonylhydrazone can be prepared by a method similar to that described in Example 22 for the preparation of β-dimethylaminopropiophenone, 2,4,6-triisopropylbenzenesulphonylhydrazone, but starting from 2,4,6-triisopropylbenzenesulphonylhydrazine (30.6 g) and α-(1-methyl-2-pyrrolidinyl)acetophenone hydrochloride (28.3 g). In this way, α-(1-methyl-2-pyrrolidinyl)acetophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride (31.1 g) is obtained in the form of a white solid melting at 210° C.

reactant | α-(1-Methyl-2-pyrrolidinyl)acetophenone 2,4,6-triisopropylbenzenesulphonylhydrazone | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(CC1N(CCC1)C)C1=CC=CC=C1 | C28H41N3O2S
reactant | β-dimethylaminopropiophenone | CN(CCC(=O)C1=CC=CC=C1)C | C11H15NO
reactant | 2,4,6-triisopropylbenzenesulphonylhydrazine | 30.6 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN | C15H26N2O2S
reactant | α-(1-methyl-2-pyrrolidinyl)acetophenone hydrochloride | 28.3 g | Cl.CN1C(CCC1)CC(=O)C1=CC=CC=C1
product | α-(1-methyl-2-pyrrolidinyl)acetophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride | 31.1 g | Cl.C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(CC1N(CCC1)C)C1=CC=CC=C1 | InChI=1S/C28H41N3O2S.ClH/c1-19(2)23-16-25(20(3)4)28(26(17-23)21(5)6)34(32,33)30-29-27(22-12-9-8-10-13-22)18-24-14-11-15-31(24)7;/h8-10,12-13,16-17,19-21,24,30H,11,14-15,18H2,1-7H3;1H
